US04923857
A solution of 2-carboxypiperidine (50 g) in tetrahydrofuran (200 ml) and water (200 ml) was adjusted to around pH 9.5 with 20% aqueous sodium hydroxide. To the solution was added dropwise allyl chloroformate (45 ml) at 5° C., while adjusting pH to around 9.5 with 20% aqueous sodium hydroxide. After stirring for 30 minutes at 0° C., the mixture was washed with ethyl acetate. After addition of ethyl acetate (200 ml), the mixture was adjusted to around pH 2.0 with concentrated hydrochloric acid (30 ml) and 1N hydrochloric acid. The mixture was extracted with ethyl acetate (200 ml), washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave an oil of 1-allyloxycarbonyl-2-carboxypiperidine (88.7 g), which was dissolved in methanol (440 ml). To this solution was added dropwise, sulfuric acid (6.9 ml) and the mixture was refluxed for 2 hours. To the mixture was added dropwise triethylamine (29.5 ml) at 20° C. Evaporation of the solvent gave a residue which was taken up into a mixture of ethyl acetate (400 ml) and water (100 ml). The organic layer was separated, washed with water, 1N aqueous hydrochloric acid, brine, 5% aqueous sodium hydrogen carbonate and brine successively, and dried over magnesium sulfate. Evaporation of the solvent gave 1-allyloxycarbonyl-2-methoxycarbonylpiperidine (92.5 g).

reactant | 2-carboxypiperidine | 50 g | C(=O)(O)C1NCCCC1 | C6H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | allyl chloroformate | 45 ml | ClC(=O)OCC=C | C4H5ClO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 1-allyloxycarbonyl-2-carboxypiperidine | 88.7 g | C(C=C)OC(=O)N1C(CCCC1)C(=O)O | C10H15NO4
